US05789394
2-Benzoyloxymethyl-5-Diisopropoxyphosphinoyl-1,3-Oxathiolane
To a solution of 2-benzoyloxymethyl-5-(methyloxycarbonyloxy)-1,3-oxathiolane (4.80 g, 16.11 mmol) and triisopropyl phosphite (4.77 ml, 19.33 mmol) in dry dichloromethane (100 ml) at 0° C. was added dropwise titanium tetrachloride (1.77 ml, 16.11 mmol). After 2 n at 0° C., the reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was then poured into saturated NaHCO3 (100 ml). The mixture was then filtered and the filtrate was partitioned. The aqueous layer was further extracted with dichloromethane (2×) and the combined extracts were washed with brine (1×), dried and concentrated. Chromatography eluting with 25-50% EtAc in hexanes yielded the title compound as a 1:1 cis trans mixture (4.958 g, 79%).

reactant | 2-benzoyloxymethyl-5-(methyloxycarbonyloxy)-1,3-oxathiolane | 16.11 mmol, 4.80 g | C(C1=CC=CC=C1)(=O)OCC1OC(CS1)OC(=O)OC | C13H14O6S
reactant | triisopropyl phosphite | 19.33 mmol, 4.77 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 16.11 mmol, 1.77 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Benzoyloxymethyl-5-Diisopropoxyphosphinoyl-1,3-Oxathiolane | C(C1=CC=CC=C1)(=O)OCC1OC(CS1)P(=O)(OC(C)C)OC(C)C | C17H25O6PS
